US06331538B1
3-Benzyloxy-1-cyclopropyl-6-fluoro-7-pyrrolidinyl-1H-pyrido[2,3-d]pyrimidine-2,4-dione
A solution of N-benzyloxy-2-cyclopropylamino-5-fluoro-6-pyrrolidinyl-3-pyridinecarboxamide (Example I-2, 155 mg, 0.44 mmol) and 1,1′-carbonyldiimidazole (CDI) (142 mg, 0.88 mmol) in chloroform (2 mL) was refluxed overnight. The mixture was concentrated and purified by flash chromatography on a silica gel column with dichloromethane as eluent giving 130 mg of the title compound as a solid, mp 184-186° C.

reactant | N-benzyloxy-2-cyclopropylamino-5-fluoro-6-pyrrolidinyl-3-pyridinecarboxamide | 0.44 mmol, 155 mg | C(C1=CC=CC=C1)ONC(=O)C=1C(=NC(=C(C1)F)N1CCCC1)NC1CC1 | C20H23FN4O2
reactant | 1,1′-carbonyldiimidazole | 0.88 mmol, 142 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Benzyloxy-1-cyclopropyl-6-fluoro-7-pyrrolidinyl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 130 mg | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)N2CCCC2)F)C2CC2)=O | C21H21FN4O3
